US06610730B2
1-(1H-pyrrol-2-yl)-ethanone (2.67 mmol, 0.29 g) in CH2Cl2 (10 ml) and Et3N (13.3 mmol, 1.90 ml) was cooled to 0° C. and treated with trimethylsilyl trifluoromethanesulfonate (5.34 mmol, 1.00 ml). The solution was held at 0° C. for 30 minutes, then diluted with ethyl acetate (75 ml) and washed with saturated aqueous sodium bicarbonate (2×20 ml) then brine (30 ml). The solution was concentrated under reduced pressure to provide crude 2-[1-(trimethyl-silanyloxy)-vinyl]-1H-pyrrole. 1H NMR (CDCl3) δ6.77 (1H, dd, J=2.7, 1.6), 6.34 (1H, dd, J=3.2, 1.6), 6.15 (1H, t, J=2.8), 4.56 (1H, d, J=1.0), 4.31 (1H, d, J=1.0), 0.45 (9H, s), 0.25 (9H, s).

reactant | 1-(1H-pyrrol-2-yl)-ethanone | 2.67 mmol, 0.29 g | N1C(=CC=C1)C(C)=O | C6H7NO
reactant | Et3N | 13.3 mmol, 1.90 ml | CCN(CC)CC | C6H15N
reactant | trimethylsilyl trifluoromethanesulfonate | 5.34 mmol, 1.00 ml | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 75 ml | C(C)(=O)OCC | C4H8O2
product | 2-[1-(trimethyl-silanyloxy)-vinyl]-1H-pyrrole | C[Si](OC(=C)C=1NC=CC1)(C)C | C9H15NOSi
